* source BUCK_BOOST_R
C_C1         N9050748 0  470u  TC=0,0 
L_L1         N9050639 0  1000uH  
V_V1         N9046805 N9039899  
+PULSE 0v 5v 0 1n 1n 14.2u 20u
V_V2         N00186 N9039899 5Vdc
R_R1         0 OUT  25 TC=0,0 
X_M6         0 N9046805 N9039899 IRLZ44N
D_D4         OUT N00186 MUR1520 
V_V3         N00186 N9050639 0Vdc
V_V4         OUT N9050748 0Vdc
